US04897109
Process for the production of N-(3,4-dimethoxybenzyl)-N-isopropyl-dichloroacetamide
A mixture of 126 g N-(3,4-dimethoxybenzyl)-N-isopropyl amine (prepared by condensing 3,4-dimethoxybenzaldehyde and isopropylamine and hydrogenating the conversation product b.p. 77.5°-77.8°/0.03 mbar) and 250 ml of toluene is stirred in a 750 ml 4-neckflask until the amine is dissolved. Then 120 g of 20% sodium hydroxide is added thereto and the reaction-mixture is cooled in a CO2 /alcohol bath to a temperature of -10°/-15°. A mixture of 89 g of dichloroacetic acid chloride in 100 ml of toluene is then added dropwise while stirring to the cold reaction mixture. A white precipitate forms immediately. When everything is added, what takes about 11/2hours, the cooling bath is removed and the reaction mixtured is stirred until room temperature has been reached. Then it is poured into an ice-water mixture. The phases are separated and the water-phase is extracted with toluene. The organic layer is then washed twice with 1N hydrochloric acid and twice with water, dried and concentrated. There remain 176 g (91.7% of the theory) or a clear sticky oil with a refraction index of nD22 1.5495 which eventually crystallizes m.p. 69°-72°.

reactant | N-(3,4-dimethoxybenzyl)-N-isopropyl amine | 126 g | COC=1C=C(CNC(C)C)C=CC1OC | C12H19NO2
reactant | 3,4-dimethoxybenzaldehyde | COC=1C=C(C=O)C=CC1OC | C9H10O3
reactant | isopropylamine | C(C)(C)N | C3H9N
reactant | sodium hydroxide | 120 g | [OH-].[Na+]
reactant | dichloroacetic acid chloride | 89 g | ClC(C(=O)Cl)Cl | C2HCl3O
solvent | toluene | 100 ml | C1(=CC=CC=C1)C | C7H8
solvent | toluene | 250 ml | C1(=CC=CC=C1)C | C7H8
product | N-(3,4-dimethoxybenzyl)-N-isopropyl-dichloroacetamide | COC=1C=C(CN(C(C(Cl)Cl)=O)C(C)C)C=CC1OC | C14H19Cl2NO3
